US08729102B2
B) 2-(2-Bromo-4-hydroxyphenyl)-N-methoxy-N-methylacetamide
A mixture of 2-(2-bromo-4-hydroxyphenyl)acetic acid (0.67 g), HATU (1.33 g), triethylamine (0.35 g) and N,O-dimethylhydroxylamine hydrochloride (0.34 g) in dichloromethane (30 mL) was stirred overnight, to which water (30 mL) was added. The organic layer was separated. The water layer was extracted by ethyl acetate (20 mL×3). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to afford the title compound (773 mg).

reactant | 2-(2-bromo-4-hydroxyphenyl)acetic acid | 0.67 g | BrC1=C(C=CC(=C1)O)CC(=O)O | C8H7BrO3
reactant | HATU | 1.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.34 g | Cl.CNOC
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 2-(2-Bromo-4-hydroxyphenyl)-N-methoxy-N-methylacetamide | 773 mg | BrC1=C(C=CC(=C1)O)CC(=O)N(C)OC | C10H12BrNO3
